US06127386
190a. 3-(1-BOC-2-(R)-azetidinylmethoxy)-6-chloro-5-(trimethylsilylethynyl)pyridine
To a solution of 3-(1-BOC-2-(R)-azetidinylmethoxy)-6-chloro-5-bromopyridine (660 mg, 1.75 mmol) in toluene (20 mL) was added NEt3 (0.7 mL), copper (I) iodine (33 mg), tetrakis(triphenylphosphine)palladium (0) (201 mg) and (trimethylsilyl)acetylene (0.30 mL, 2.10 mmol). The reaction mixture was stirred and heated at 100° C. for 16 h. Solvent was evaporated and the residue was chromatographed (silica gel; hexane/EtoAc, 5:1 to 2:1) to afford an oil (430 mg, 62%): 1H NMR (CDCl3, 300 MHz) δ 1.42 (s, 9H), 2.20-2.40 (m, 2H), 3.80-3.92 (m, 2H), 4.10 (m, 1H), 4.30 (m,1H), 4.50 (m, 1H), 7.37 (d, (H, J=3.0 Hz), 8.05 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 395 (M+H)+.

reactant | 3-(1-BOC-2-(R)-azetidinylmethoxy)-6-chloro-5-bromopyridine | 1.75 mmol, 660 mg | C(=O)(OC(C)(C)C)N1[C@H](CC1)COC=1C=NC(=C(C1)Br)Cl | C14H18BrClN2O3
reactant | NEt3 | 0.7 mL | CCN(CC)CC | C6H15N
reactant | (trimethylsilyl)acetylene | 2.10 mmol, 0.30 mL | C[Si](C)(C)C#C | C5H10Si
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) iodine | 33 mg | [I+].[Cu+]
catalyst | tetrakis(triphenylphosphine)palladium | 201 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-BOC-2-(R)-azetidinylmethoxy)-6-chloro-5-(trimethylsilylethynyl)pyridine | 430 mg, 62% | C(=O)(OC(C)(C)C)N1[C@H](CC1)COC=1C=NC(=C(C1)C#C[Si](C)(C)C)Cl | C19H27ClN2O3Si
